US07629342B2
4H. Synthesis of 4-(5-(4-chlorophenyl)-6-hydrazinyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile
To a microwave flask was added 4-(6-bromo-5-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile (105 mg, 0.187 mmol), pyridine (10 ml) and anhydrous hydrazine (60 mg, 1.87 mmol). The reaction was subjected to microwaves with heating to 200° C. and the conditions were continued at that temperature for 1.5 hr. After this time, the reaction was cooled to rt and the solvent was removed to give product as yellow solid. The product was used in the next reaction without further purification.

reactant | 4-(6-bromo-5-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 0.187 mmol, 105 mg | BrC=1C(=C(C(N(N1)CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)Cl | C25H15BrClF3N4O
reactant | hydrazine | 1.87 mmol, 60 mg | NN | H4N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(5-(4-chlorophenyl)-6-hydrazinyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | ClC1=CC=C(C=C1)C1=C(C(N(N=C1NN)CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C#N)C=C1 | C25H18ClF3N6O
